**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Bead Array
* Matchcode:              WE-CMS
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          6/18/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt 4856_7427520_com_30ohm 1 2
Rp 1 2 35
Cp 1 2 0.1p
Rs 1 N3 0.003
L1 N3 2 0.175u
.ends 4856_7427520_com_30ohm
*******
.subckt 9056_7427521_com_52ohm 1 2
Rp 1 2 65
Cp 1 2 0.0001p
Rs 1 N3 0.003
L1 N3 2 0.4u
.ends 9056_7427521_com_52ohm
*******
.subckt 9085_7427523_com_83ohm 1 2
Rp 1 2 96
Cp 1 2 0.01p
Rs 1 N3 0.003
L1 N3 2 0.44u
.ends 9085_7427523_com_83ohm
*******
.subckt 4856_7427520_2turns_115ohm 1 2
Rp 1 2 131
Cp 1 2 0.015p
Rs 1 N3 0.003
L1 N3 2 0.5u
.ends 4856_7427520_2turns_115ohm
*******
.subckt 4856_7427520_diff_92ohm 1 2
Rp 1 2 130
Cp 1 2 0.16p
Rs 1 N3 0.003
L1 N3 2 0.71u
.ends 4856_7427520_diff_92ohm
*******
.subckt 9056_7427521_2turns_211ohm 1 2
Rp 1 2 230
Cp 1 2 1.17p
Rs 1 N3 0.003
L1 N3 2 1.265u
.ends 9056_7427521_2turns_211ohm
*******
.subckt 9056_7427521_diff_14ohm 1 2
Rp 1 2 340
Cp 1 2 0.25p
Rs 1 N3 0.003
L1 N3 2 0.018u
.ends 9056_7427521_diff_14ohm
*******
.subckt 9085_7427523_2turns_319ohm 1 2
Rp 1 2 355
Cp 1 2 0.329p
Rs 1 N3 0.003
L1 N3 2 1.62u
.ends 9085_7427523_2turns_319ohm
*******
.subckt 9085_7427523_diff_290ohm 1 2
Rp 1 2 320
Cp 1 2 0.327p
Rs 1 N3 0.003
L1 N3 2 1.7u
.ends 9085_7427523_diff_290ohm
*******
